US04803211
To a mixture of 0.30 g of 4-acetyl-3-hydroxy-2-propylbenzyl chloride, 0.20 g of 4-hydroxy-2-mercaptopyrimidine, 0.20 g of anhydrous potassium carbonate and 4 ml of methyl ethyl ketone was added a catalytic amount of tetra-n-butylammonium bromide. The mixture was stirred at 60° C. for 1 day. A 1N aqueous sodium hydroxide solution and ethyl acetate were added to the reaction mixture to fractionate. The organic phase was dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was applied to silica gel column chromatography. Elution with a mixture of hexane-ethyl acetate (1:2) gave 0.10 g of 2-[(4-acetyl-3- hydroxy-2-propylbenzyl)thio]-4-hydroxypyrimidine.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | 0.30 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | 4-hydroxy-2-mercaptopyrimidine | 0.20 g | OC1=NC(=NC=C1)S | C4H4N2OS
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 4 ml | C(C)C(=O)C | C4H8O
product | 2-[(4-acetyl-3- hydroxy-2-propylbenzyl)thio]-4-hydroxypyrimidine | 0.10 g | C(C)(=O)C1=C(C(=C(CSC2=NC=CC(=N2)O)C=C1)CCC)O | C16H18N2O3S
